US04978753
In the manner given in Example 16, carbonyldiimidazole tetrolic acid and 2-amino-7-nitro-5-(o-chlorophenyl)-3H-1,4-benzodiazepine were stirred in tetrahydrofuran-dimethylformamide to give 9-nitro-1-methyl-7-(o-chlorophenyl)pyrimido[1,2-a][1,4]-benzodiazepin-3(5H)-one.

reactant | carbonyldiimidazole tetrolic acid | C(=O)(C=1N=C(NC1)CC#CC(=O)O)C=1N=C(NC1)CC#CC(=O)O | C15H10N4O5
reactant | 2-amino-7-nitro-5-(o-chlorophenyl)-3H-1,4-benzodiazepine | NC1=NC2=C(C(=NC1)C1=C(C=CC=C1)Cl)C=C(C=C2)[N+](=O)[O-] | C15H11ClN4O2
solvent | tetrahydrofuran dimethylformamide | O1CCCC1.CN(C=O)C
product | 9-nitro-1-methyl-7-(o-chlorophenyl)pyrimido[1,2-a][1,4]-benzodiazepin-3(5H)-one | [N+](=O)([O-])C=1C=CC2=C(C(=NCC=3N2C(=CC(N3)=O)C)C3=C(C=CC=C3)Cl)C1 | C19H13ClN4O3
